US08487093B2
Step 2: (2S,5R)-6-Hydroxy-N-(2-methoxypyridin-4-yl)-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carboxamide
Palladium on carbon (13.4 mg; 10% Pd/C) was added to a solution of (2S,5R)-6-(benzyloxy)-N-(2-methoxypyridin-4-yl)-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carboxamide (43.6 mg, 0.114 mmol) in methanol (1 mL) and the resulting mixture was stirred under hydrogen (balloon) overnight. HPLC analysis showed reaction complete. The reaction mixture was faltered through a microfilter and the filtrate was concentrated under vacuum to afford the title compound as an impure colorless oil.

reactant | (2S,5R)-6-(benzyloxy)-N-(2-methoxypyridin-4-yl)-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carboxamide | 0.114 mmol, 43.6 mg | C(C1=CC=CC=C1)ON1[C@@H]2CC[C@H](N(C1=O)C2)C(=O)NC2=CC(=NC=C2)OC | C20H22N4O4
catalyst | Palladium on carbon | 13.4 mg | [Pd] | Pd
solvent | methanol | 1 mL | CO | CH4O
product | (2S,5R)-6-Hydroxy-N-(2-methoxypyridin-4-yl)-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carboxamide | ON1[C@@H]2CC[C@H](N(C1=O)C2)C(=O)NC2=CC(=NC=C2)OC | C13H16N4O4
